US06172085B2
Tert-buty [2-[[4-[2-[(3,3-diphenylpropyl)amino]ethyl]-1-piperidinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate
Using tert-butyl [2-[[4-(formylmethyl)-1-piperidinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5yl]carbamate and (3,3-diphenylpropyl)amine, the procedure of Reference Example 44 was otherwise repeated to provide the title compound. Yield 97%.

reactant | tert-butyl [2-[[4-(formylmethyl)-1-piperidinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5yl]carbamate | C(=O)CC1CCN(CC1)CC1(OC2=C(C1)C(=C(C(=C2C)C)NC(OC(C)(C)C)=O)C)C | C25H38N2O4
reactant | (3,3-diphenylpropyl)amine | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
product | Tert-buty [2-[[4-[2-[(3,3-diphenylpropyl)amino]ethyl]-1-piperidinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate | Yield 97% | C1(=CC=CC=C1)C(CCNCCC1CCN(CC1)CC1(OC2=C(C1)C(=C(C(=C2C)C)NC(OC(C)(C)C)=O)C)C)C2=CC=CC=C2 | C40H55N3O3
